US06207655B1
Synthesis of 2-[bis(diethoxyphosphoryl)methyl]maleic Acid
A solution of 12.7 g of 2-[bis(diethoxyphosphoryl)methyl]maleic acid dimethyl ester in 76.8 ml of 1 N sodium hydroxide is kept under stirring for 96 hours, then the reaction mixture is washed twice with ethyl ether and is brought to pH 8.5 with 37% hydrochloric acid. The mixture is then concentrated to dryness and redissolved in 50 ml of methanol. After filtration of the formed sodium chloride, the solvent is evaporated under reduced pressure. The residue is treated with 125 ml of acetone, to give, after filtration, 11.5 g of the product as disodium salt.

reactant | 2-[bis(diethoxyphosphoryl)methyl]maleic acid dimethyl ester | 12.7 g | COC(\C(=C/C(=O)OC)\C(P(=O)(OCC)OCC)P(=O)(OCC)OCC)=O | C15H28O10P2
solvent | sodium hydroxide | 1 N, 76.8 ml | [OH-].[Na+]
product | 2-[bis(diethoxyphosphoryl)methyl]maleic Acid | C(C)OP(=O)(OCC)C(/C(/C(=O)O)=C/C(=O)O)P(=O)(OCC)OCC | C13H24O10P2
